US04898874
7-(Bromomethyl)-3-(4-bromophenyl)-5-chloro-2,1-benzisoxazole
A mixture of 2.1 g (0.0065 mole) of 3-(4-bromophenyl)-5-chloro-7-methyl-2,1-benzisoxazole, 1.2 g (0.0067 mole) of N-bromosuccinimide and a few crystals of dibenzoyl peroxide in 100 ml of carbon tetrachloride was heated at reflux for 2.5 hr under flood light illumination and an argon atmosphere and then filtered while still hot. The filtrate was concentrated under reduced pressure to a solid residue. The solid was recrystallized twice from 2-propanol to give 2.2 g (85%) of light-yellow needles, m.p. 147°-150° C.

reactant | 3-(4-bromophenyl)-5-chloro-7-methyl-2,1-benzisoxazole | 0.0065 mole, 2.1 g | BrC1=CC=C(C=C1)C=1ON=C2C1C=C(C=C2C)Cl | C14H9BrClNO
reactant | N-bromosuccinimide | 0.0067 mole, 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(Bromomethyl)-3-(4-bromophenyl)-5-chloro-2,1-benzisoxazole | 2.2 g, 85% | BrCC1=CC(=CC2=C(ON=C21)C2=CC=C(C=C2)Br)Cl | C14H8Br2ClNO
